US03963706
b. 1-(3-Methylphenyl)-3-(2-chloro-4-sulphamoylphenyl)-imidazolidin-4-one
2-(3-Methylanilino)-N-(2-chloro-4-sulphamoylphenyl)-acetamide 3.5 g dissolved in ethanol (100 ml) was reacted with p-formaldehyde (0.6 g) in water (200 ml) as in Example 15 (b) to yield 2.8 g product, m.p. 198°-202°C

reactant | 2-(3-Methylanilino)-N-(2-chloro-4-sulphamoylphenyl)-acetamide | 3.5 g | CC=1C=C(NCC(=O)NC2=C(C=C(C=C2)S(N)(=O)=O)Cl)C=CC1 | C15H16ClN3O3S
reactant | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 200 ml | O | H2O
product | 1-(3-Methylphenyl)-3-(2-chloro-4-sulphamoylphenyl)-imidazolidin-4-one | 2.8 g | CC=1C=C(C=CC1)N1CN(C(C1)=O)C1=C(C=C(C=C1)S(N)(=O)=O)Cl | C16H16ClN3O3S
